US04263437
A mixture of 40 mg of (5,6-dihydro benzo[b]pyrido[3,2-f]oxepin-8-yl)-acetic acid, 60 mg of dicyclohexylcarbodiimide and 2 ml of dry dichloromethane was stirred under ice cooling. To the resulting mixture was added 8 ml of a saturated liquid ammonia-dichloromethane solution, and the mixture was stirred for 3 hours. After the completion of the reaction, this was basified with a saturated sodium hydrogen carbonate solution and extracted with ethyl acetate. The extract was washed with water and then with a saturated sodium chloride solution and dried over anhydrous sodium sulfate. The solvent was distilled off to obtain a light yellow oil, which was chromatographed over 4 g of silica gel and eluted with chloroform/ethyl acetate (10/1-8/2) to obtain crystals. These were recrystallized from ethyl acetate to yield 15 mg (yield: 40%) of (5,6-dihydro benzo[b]pyrido[3,2-f]oxepin-8-yl)-acetamide as light yellow needle crystals having a melting point of 164°-165° C.

reactant | (5,6-dihydro benzo[b]pyrido[3,2-f]oxepin-8-yl)-acetic acid | 40 mg | N1=CC=CC=2CCC3=C(OC21)C=CC(=C3)CC(=O)O | C15H13NO3
reactant | dicyclohexylcarbodiimide | 60 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | ammonia dichloromethane | N.ClCCl
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | (5,6-dihydro benzo[b]pyrido[3,2-f]oxepin-8-yl)-acetamide | 15 mg, yield: 40% | N1=CC=CC=2CCC3=C(OC21)C=CC(=C3)CC(=O)N | C15H14N2O2
